US07915283B2
Preparation of 4-[1-Cyano-1-(5-phenyl-1,3,4-oxadiazol-2-yl)-methylene]-piperidine
To a mixture of N-Boc-4-piperidone (0.200 g, 1.00 mmol) and 2-(cyanomethyl)-5-phenyl-1,3,4-oxadiazole in dry THF (5 mL), at 5° C. under Ar, was added NaHMDS solution (1M in THF, 1.1 mL, 1.1 mmol) and the mixture was then stirred at room temperature for 16 h. The reaction was quenched with MeOH (1 mL) and then the mixture was evaporated to dryness. The residue was taken up in HCl-dioxane (4 M, 2 mL) and the reaction mixture was kept at room temperature for 20 h before again being evaporated to dryness. The residue was taken up in EtOAc, washed (sat. NaHCO3×2, brine), dried (MgSO4) and evaporated to give the title compound (0.212 g, 80%) as a dark red semi-solid, which was used as such in the next step:

reactant | N-Boc-4-piperidone | 1.00 mmol, 0.200 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | 2-(cyanomethyl)-5-phenyl-1,3,4-oxadiazole | C(#N)CC=1OC(=NN1)C1=CC=CC=C1 | C10H7N3O
reactant | NaHMDS | 1.1 mmol, 1M, 1.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[1-Cyano-1-(5-phenyl-1,3,4-oxadiazol-2-yl)-methylene]-piperidine | 0.212 g, 80% | C(#N)C(C=1OC(=NN1)C1=CC=CC=C1)=C1CCNCC1 | C15H14N4O
